data/rdb19/train.csv
rxn,smiles,ea
1734,[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],22.58038189902436
5515,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])[O:3][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[C:18]([O:17])([C:20]([H:26])([H:27])[H:28])[O:19]1)([H:7])([H:8])[H:9],91.35099873883884
5551,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([O:3])([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])[H:23])([H:7])([H:8])[H:9],45.62939270603238
3047,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2]([H:12])[H:26])([H:8])([H:9])[H:10].[O:3]([C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:11],64.41426416428294
2211,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([H:22])([H:23])[H:24]>>[C:1]([C:2]([C:3]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:13])([H:14])([H:15])[C:21]([H:22])([H:23])[H:24],55.230140892294
1234,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])[N:18]([C:19](=[O:20])[H:31])[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][H:26],57.19361034868052
3123,[C:16]([C:17]([C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4]1([C:6](=[C:7]([H:14])[H:15])[H:13])[O:5][C:17]([H:26])([H:27])[C:18]1([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:11])[H:12])([H:8])([H:9])[H:10],84.55313637125073
4270,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])=[C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[H:26])([H:8])([H:9])[H:10],34.28581912256777
4990,[C:11]([O:12][C:13]([C:14]([H:22])([H:23])[H:24])([C:15]([H:16])[H:17])[H:21])([H:18])([H:19])[H:20].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3]([C:4]([H:9])[H:10])([H:8])[C:15]([C:13]([O:12][C:11]([H:18])([H:19])[H:20])([C:14]([H:22])([H:23])[H:24])[H:21])([H:16])[H:17])([H:5])([H:6])[H:7],19.685604045225773
484,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])([H:15])[H:16]>>[C:1]([O:2][O:3][C:10]1([H:18])[C:9]([C:8](=[C:7]([H:15])[H:16])[H:17])[C:14]([H:22])=[C:13]([H:21])[C:12]([H:20])=[C:11]1[H:19])([H:4])([H:5])[H:6],28.16652088687988
560,[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1][H:2]>>[C:3]([C:4]([C:5]([C:6]([H:17])[H:18])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([H:2])[H:16],7.7817768990353215
2170,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:14])[H:15])[H:8])([H:6])[H:7],13.21499215759104
